US04072760
3-(4-Methoxybenzamido)-4-hydroxy-5-chloro-α-(tert.butylaminomethyl)benzylalcohol hydrochloride.
To a slurry of 3-(4-methoxybenzamido)-4-hydroxy-α-(tert.butylaminomethyl)benzylalcohol hydrochloride (0.5 g, 0.0013 mole) in glacial acetic acid (5 ml) a glacial acetic acid/chlorine solution (11.86 ml) containing 0.0898 g (0.0013 mole) of chlorine was added at room temperature with stirring during 10 minutes. The mixture was kept with continued stirring for 24 hours at room temperature, whereafter insoluble substance was filtered off, washed with ether, and air-dried (160 mg) (32%), melting point 196° - 199° C. 80 mg of the crude product was recrystallized from methanol (2 ml) (insoluble substance was filtered off). The yield of the analytically pure 3-(4-methoxybenzamido)-4-hydroxy-5-chloro-α-(tert.butylaminomethyl)benzylalcohol hydrochloride was 50 mg (20%), m.p. 205° - 206° C.

reactant | 3-(4-methoxybenzamido)-4-hydroxy-α-(tert.butylaminomethyl)benzylalcohol hydrochloride | 0.0013 mole, 0.5 g | Cl.COC1=CC=C(C(=O)NC=2C=C(C(CNC(C)(C)C)O)C=CC2O)C=C1
reactant | acetic acid chlorine | 11.86 ml | C(C)(=O)O.ClCl
reactant | chlorine | 0.0013 mole, 0.0898 g | ClCl | Cl2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Methoxybenzamido)-4-hydroxy-5-chloro-α-(tert.butylaminomethyl)benzylalcohol hydrochloride | Cl.COC1=CC=C(C(=O)NC=2C=C(C(CNC(C)(C)C)O)C=C(C2O)Cl)C=C1 | InChI=1S/C20H25ClN2O4.ClH/c1-20(2,3)22-11-17(24)13-9-15(21)18(25)16(10-13)23-19(26)12-5-7-14(27-4)8-6-12;/h5-10,17,22,24-25H,11H2,1-4H3,(H,23,26);1H
